US09120749B2
(4-(2-(3-aminopiperidin-1-yl)pyrimidin-5-ylamino)-6-(3-chloro-4-hydroxy-5-methoxyphenyl)quinolin-3-yl)(cyclopropyl)methanone
Following general procedure D, tert-butyl 1-(5-(6-bromo-3-(cyclopropanecarbonyl)quinolin-4-ylamino)pyrimidin-2-yl)piperidin-3-ylcarbamate (150 mg, 0.26 mmol) was reacted with 2-chloro-6-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (111 mg, 0.39 mmol) to obtain the protected intermediate which was subjected to general procedure A-2 to afford the desired product (16 mg, 11% over 2 steps) as an orange-yellow solid: 1H NMR (500 MHz, MeOD+TFA-d) δ 9.35 (br s, 1H), 8.45 (s, 2H), 8.29 (dd, J=8.8, 1.9 Hz, 1H), 8.26-8.15 (br s, 1H), 8.03 (d, J=8.8 Hz, 1H), 7.07 (br s, 1H), 6.96 (br s, 1H), 4.76 (d, J=12.9 Hz, 1H), 4.45 (br s, 1H), 3.37-3.31 (m, 1H), 2.82 (br s, 1H), 2.23-2.16 (m, 1H), 1.96-1.85 (m, 1H), 1.78-1.68 (m, 1H), 1.68-1.56 (m, 1H), 1.22-1.16 (m, 4H); ESI MS m/z 545 [C29H29ClN6O3+H]+; HPLC 98.5% (AUC), tR=10.69 min.

reactant | tert-butyl 1-(5-(6-bromo-3-(cyclopropanecarbonyl)quinolin-4-ylamino)pyrimidin-2-yl)piperidin-3-ylcarbamate | 0.26 mmol, 150 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC=1C=NC(=NC1)N1CC(CCC1)NC(OC(C)(C)C)=O | C27H31BrN6O3
reactant | 2-chloro-6-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.39 mmol, 111 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)OC)O | C13H18BClO4
product | (4-(2-(3-aminopiperidin-1-yl)pyrimidin-5-ylamino)-6-(3-chloro-4-hydroxy-5-methoxyphenyl)quinolin-3-yl)(cyclopropyl)methanone | 16 mg, 11% | NC1CN(CCC1)C1=NC=C(C=N1)NC1=C(C=NC2=CC=C(C=C12)C1=CC(=C(C(=C1)OC)O)Cl)C(=O)C1CC1 | C29H29ClN6O3
